US07592373B2
4.16.b. 3-bromo-4-(2-morpholin-4-ylethoxy)phenylamine
A reaction mixture of 220 mg (0.66 mmol) of 4-[2-(2-bromo-4-nitrophenoxy)ethyl]morpholine and 100 mg Raney nickel in 50 mL of ethyl acetate is hydrogenated at ambient temperature and 3 bar hydrogen. The catalyst is suction filtered and the filtrate is evaporated down. The purification is carried out by column chromatography on aluminum oxide (eluant: petroleum ether/ethyl acetate (1:1)). Yield: 100 mg (50% of theory); C12H17BrN2O2 (M=301.18); calc.: molecular ion peak (M+H)+: 301/303 (Br); found: molecular ion peak (M+H)+: 301/303 (Br).

reactant | 4-[2-(2-bromo-4-nitrophenoxy)ethyl]morpholine | 0.66 mmol, 220 mg | BrC1=C(OCCN2CCOCC2)C=CC(=C1)[N+](=O)[O-] | C12H15BrN2O4
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 100 mg | [Ni] | Ni
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3-bromo-4-(2-morpholin-4-ylethoxy)phenylamine | BrC=1C=C(C=CC1OCCN1CCOCC1)N | C12H17BrN2O2
